US04963544
Conc. hydrochloric acid (0.5 ml) was added to a solution of (2S,4R)-4-t-butyldimethylsilyloxy-2-(imidazol-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)-pyrrolidine (1.55 g) in methanol (15 ml). After stirring at ambient temperature for one hour, saturated aqueous sodium hydrogen carbonate (3 ml) was added to the mixture. The reaction mixture was concentrated under reduced pressure to give a residue. To the residue was added a mixture of chloroform (30 ml) and water (30 ml). The organic layer was separated, dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (20 g) and eluted with a mixture of methanol and chloroform (2:98, V/V) to give (2S,4R)-4-hydroxy-2-(imidazol-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl) pyrrolidine (0.80 g).

reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | (2S,4R)-4-t-butyldimethylsilyloxy-2-(imidazol-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)-pyrrolidine | 1.55 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C=NC=C1 | C22H32N4O5Si
reactant | sodium hydrogen carbonate | 3 ml | C(O)([O-])=O.[Na+]
reactant | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 15 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
product | (2S,4R)-4-hydroxy-2-(imidazol-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl) pyrrolidine | 0.80 g | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C=NC=C1 | C16H18N4O5
